US09034866B2
Synthesis of 3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-9-fluoro-10-[(3R)-3-hydroxy-3-pyrimidin-2-yl-but-1-ynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide
3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-9-fluoro-10-[(3R)-3-hydroxy-3-pyrimidin-2-yl-but-1-ynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide was prepared similarly according to General Procedure E with slight modification. 10-bromo-3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide was reacted with (2R)-2-pyrimidin-2-ylbut-3-yn-2-ol in a solution of DMF (1.3 mL/mmol) and diisopropylamine (2.6 mL/mmol) to afford 47 mg of the titled compound (40% yield). M+1=501.2. 1H NMR (400 MHz, DMSO-d6) δ 8.89 (d, J=4.8 Hz, 2H), 8.64 (d, J=8.4 Hz, 1H), 8.35 (br s, 1H), 7.74 (br s, 1H), 7.50 (t, J=4.8 Hz, 1H), 7.03 (d, J=10.5 Hz, 1H), 6.21 (s, 1H), 5.04-4.80 (m, 2H), 4.63-4.54 (m, 2H), 2.13-2.04 (m, 1H), 1.89 (s, 3H), 1.03-0.95 (m, 2H), 0.93-0.87 (m, 2H).

reactant | 10-bromo-3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3=NC(=NN3)C3CC3)C1)F | C17H14BrFN6O2
reactant | (2R)-2-pyrimidin-2-ylbut-3-yn-2-ol | N1=C(N=CC=C1)[C@@](C)(C#C)O | C8H8N2O
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-9-fluoro-10-[(3R)-3-hydroxy-3-pyrimidin-2-yl-but-1-ynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 47 mg, 40% yield | C1(CC1)C1=NNC(=N1)C1=C(N=C2N1CCOC1=C2C=C(C(=C1)F)C#C[C@](C)(C1=NC=CC=N1)O)C(=O)N | C25H21FN8O3
